US09024093B2
N-Boc-glycylglycyl-L-phenylalanine Methyl Ester (S74)
To N-Boc-glycylglycine (696 mg, 3.00 mmol, 1.00 equiv) in THF (10.0 mL) at 0° C. was added EDCI (1.15 g, 6.00 mmol, 2.00 equiv), HOBt (810 mg, 6.00 mmol, 2.00 equiv), n,n-diisopropylethyl amine (1.56 mL, 9.00 mmol, 3.00 equiv) and 4-(Dimethylamino)pyridine (36 mg, 0.030 mmol, 0.10 equiv) and L-phenylalanine methyl ester (647 mg, 3.00 mmol, 1.00 equiv). The reaction mixture was stirred for 1 hr at 0° C. and stirred for 12 h at room temperature. The reaction mixture was diluted with ethyl acetate and washed with water and dried (Na2SO4). The filtrate is concentrated in vacuo and the residue is purified by chromatography on silica gel eluting with DCM/MeOH 10:1 (v/v) to afford 1.10 g of the title compound as a colorless oil (93% yield).

reactant | N-Boc-glycylglycine | 3.00 mmol, 696 mg, 1.00 equiv | C(=O)(OC(C)(C)C)NCC(=O)NCC(=O)O | C9H16N2O5
reactant | EDCI | 6.00 mmol, 1.15 g, 2.00 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 6.00 mmol, 810 mg, 2.00 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | L-phenylalanine methyl ester | 3.00 mmol, 647 mg, 1.00 equiv | COC([C@@H](N)CC1=CC=CC=C1)=O | C10H13NO2
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
catalyst | 4-(Dimethylamino)pyridine | 0.030 mmol, 36 mg, 0.10 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Boc-glycylglycyl-L-phenylalanine Methyl Ester | 1.10 g, 93% yield | COC([C@@H](NC(CNC(CNC(=O)OC(C)(C)C)=O)=O)CC1=CC=CC=C1)=O | C19H27N3O6
